US04732998
Dichloromethyl 3-(phthalimido)-propyl ether
A mixture of 3-(phthalimido)-propyl formate (17 g), phosphorus pentachloride (15.2 g) and alcoholfree chloroform was heated for 1 hour on the steam bath. After cooling and addition of ether, the crystalline product was isolated by filtration. M.p. 101°-103° C.

reactant | 3-(phthalimido)-propyl formate | 17 g | C(=O)OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H11NO4
reactant | phosphorus pentachloride | 15.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | Dichloromethyl 3-(phthalimido)-propyl ether | C1(C=2C(C(N1CCCOC(Cl)Cl)=O)=CC=CC2)=O | C12H11Cl2NO3
